US04925859
STEP A: Ethyl 3-amino-2-methyl-3-phenyl-2-propenoate
Under vigorous agitation, 73.2 g of powdered electrolytic zinc were refluxed in 1.2 liter of anhydrous tetrahydrofuran and 10 ml of ethyl 2-bromopropionate were added together with a crystal of sublimed iodine. The reaction started and then, away from reflux, 40.8 ml of benzonitrile were added and the mixture was refluxed which was maintained by the slow addition of 58 ml of ethyl 2-bromopropionate. After cooling, the mixture was poured into 1.5 liters of water containing 200 g of ammonium chloride and extraction was done with ether. The extracts were washed with water, dried, and concentrated under reduced pressure. The residue was taken up with ether and the insoluble matter was filtered off. The filtrate was concentrated under reduced pressure to obtain 76 g of an unstable product which was used rapidly for the next step.

reactant | ethyl 2-bromopropionate | 10 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | iodine | II | I2
reactant | benzonitrile | 40.8 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | ethyl 2-bromopropionate | 58 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.2 liter | O1CCCC1 | C4H8O
catalyst | zinc | 73.2 g | [Zn] | Zn
solvent | ether | CCOCC | C4H10O
solvent | water | 1.5 liters, 200 g | O | H2O
product | Ethyl 3-amino-2-methyl-3-phenyl-2-propenoate | 76 g | NC(=C(C(=O)OCC)C)C1=CC=CC=C1 | C12H15NO2
